US08217032B2
5-{Hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol Hydrochloride
Dissolve [6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen 1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (728 mg, 1.4 mmol) in THF (85 mL) and cool to 0° C. Add 1M lithium aluminum hydride in THF (5.8 mL, 5.8 mmol) and bring to room temperature. Heat the reaction to reflux for 30 minutes. Cool reaction and pour onto ice/chloroform to form a suspension. Add 6N HCl dropwise to obtain a pH of 1. Extract with 20% isopropyl alcohol in chloroform. Wash organic layer with brine, dry, filter, and concentrate in vacuo to yield 730 mg (100%) of the title compound. HPLC Rt (0.01% heptafluorobutyric acid:1.0% isopropylalcohol:water is mobile phase A and 0.01% heptafluorobutyric acid:1.0% isopropylalcohol:acetonitrile is mobile phase B; gradient: 5 to 95% B, Purity@254 nm)=2.41 (100%); mass spectrum (ion spray): m/z=508.3 (M+H).

reactant | [6-hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen 1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.4 mmol, 728 mg | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C30H26F3NO3
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 5.8 mmol, 5.8 mL | C1CCOC1 | C4H8O
product | 5-{Hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-6-(2,4,6-trifluoro-phenyl)-naphthalen-2-ol Hydrochloride | 730 mg, 100% | Cl.OC(C1=C2C=CC(=CC2=CC=C1C1=C(C=C(C=C1F)F)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H28F3NO3.ClH/c31-21-17-26(32)29(27(33)18-21)25-10-6-20-16-22(35)7-11-24(20)28(25)30(36)19-4-8-23(9-5-19)37-15-14-34-12-2-1-3-13-34;/h4-11,16-18,30,35-36H,1-3,12-15H2;1H
